US08669367B2
A solution containing 23.4 g (83 mmol) of N-trichloroacetyl-2-azaadamantane and 70.1 g of isopropanol, was heated to 80° C., and 99.4 g of a 20 wt % NaOH aqueous solution was added, followed by stirring for one hour. 47 g of water and 47 g of toluene were added, followed by liquid separation, to obtain a toluene solution of 2-azaadamantane.

reactant | N-trichloroacetyl-2-azaadamantane | 83 mmol, 23.4 g | ClC(C(=O)N1C2CC3CC(CC1C3)C2)(Cl)Cl | C11H14Cl3NO
reactant | isopropanol | 70.1 g | C(C)(C)O | C3H8O
reactant | NaOH | [OH-].[Na+]
reactant | water | 47 g | O | H2O
solvent | toluene | 47 g | C1(=CC=CC=C1)C | C7H8
product | 2-azaadamantane | Yield: 77% | C12NC3CC(CC(C1)C3)C2 | C9H15N
